US05302718
2-Hydroxy-5-[[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]acetyl]benzoic acid
A solution of 2-hydroxy-5-[[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]ethynyl]benzoic acid (4.1 g, 0.01 mol) in formic acid (100 ml) was refluxed for 30 h. Water (200 ml) was added and the product crystallized to yield 3.0 g (71%) product.

reactant | 2-hydroxy-5-[[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]ethynyl]benzoic acid | 0.01 mol, 4.1 g | OC1=C(C(=O)O)C=C(C=C1)C#CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C21H16N2O5S
reactant | Water | 200 ml | O | H2O
solvent | formic acid | 100 ml | C(=O)O | CH2O2
product | 2-Hydroxy-5-[[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]acetyl]benzoic acid | 3.0 g, 71% | OC1=C(C(=O)O)C=C(C=C1)C(CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C)=O | C21H18N2O6S
